US08633173B2
2-Chloro-8-(2-isobutoxy-4-methylphenyl)-[1,2,4]triazolo[1,5-a]pyridine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine and 2-isobutoxy-4-methylphenylboronic acid in a manner analogous to Example 2c (0.48 g, 71%). MS=316 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 2-isobutoxy-4-methylphenylboronic acid | C(C(C)C)OC1=C(C=CC(=C1)C)B(O)O | C11H17BO3
product | 2-Chloro-8-(2-isobutoxy-4-methylphenyl)-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C(=CC=C2)C2=C(C=C(C=C2)C)OCC(C)C)=N1 | C17H18ClN3O
